US04242515
5-(4-Chlorophenyl)-1,2-dihydro-2-oxo-3-pyridinecarbonitrile
To a solution of 37.6 g. of sodium methoxide in 650 ml. of methanol is added 29.24 g. of cyanoacetamide followed by 26.1 g. of 2-(4-chlorophenyl)-3-(dimethylamino)-2-propenal. The resulting solution is heated at reflux temperature for 16 hours to separate a yellow solid. Then 50 ml. of glacial acetic acid is added and the mixture is diluted with water, causing a new yellow solid to separate. This solid is collected by filtration and is washed with water to give 60.5 g. of the product of the Example m.p. 285°-290° C.

reactant | sodium methoxide | C[O-].[Na+]
reactant | cyanoacetamide | C(#N)CC(=O)N | C3H4N2O
reactant | 2-(4-chlorophenyl)-3-(dimethylamino)-2-propenal | ClC1=CC=C(C=C1)C(C=O)=CN(C)C | C11H12ClNO
solvent | methanol | CO | CH4O
product | 5-(4-Chlorophenyl)-1,2-dihydro-2-oxo-3-pyridinecarbonitrile | ClC1=CC=C(C=C1)C=1C=C(C(NC1)=O)C#N | C12H7ClN2O
